US07053082B1
(±)-7-acetyl-8-cyano-7, 8-dihydro-8-methyl-5-(3-methyl-4-nitro-phenyl)-9H-1,3-dioxolo[4,5-h][2,3]benzodiazepine
To 60 ml of acetyl chloride 9.11 g (25.0 millimoles) of (±)-8-cyano-7,8-dihydro-8-methyl-5-(3-methyl-4-nitro-phenyl)-9H-1,3-dioxolo[4,5-h][2,3]benzodiazepine are added at 15° C. under stirring. The suspension formed turns into a solution within 5 minutes, but after a further period of 5 minutes a suspension is re-formed. The reaction mixture is stirred at 25° C. for 6 days, whereupon it is evaporated in vacuo. To the residue 90 ml of water are added and the mixture is stirred under cooling with icecold water for half an hour. The precipitated crystals are filtered and washed with icecold water. The crude product is crystallized from 150 ml of acetonitrile. The crystals are filtered, washed with acetonitrile and ether and dried. Thus 6.84 g of the desired compound are obtained, yield 67%, mp.: 253–255° C.

reactant | acetyl chloride | 25.0 millimoles, 60 ml, 9.11 g | C(C)(=O)Cl | C2H3ClO
reactant | (±)-8-cyano-7,8-dihydro-8-methyl-5-(3-methyl-4-nitro-phenyl)-9H-1,3-dioxolo[4,5-h][2,3]benzodiazepine | C(#N)C1(NN=C(C2=C(C1)C=C1C(=C2)OCO1)C1=CC(=C(C=C1)[N+](=O)[O-])C)C | C19H16N4O4
product | (±)-7-acetyl-8-cyano-7, 8-dihydro-8-methyl-5-(3-methyl-4-nitro-phenyl)-9H-1,3-dioxolo[4,5-h][2,3]benzodiazepine | 6.84 g, yield 67% | C(C)(=O)N1N=C(C2=C(CC1(C)C#N)C=C1C(=C2)OCO1)C1=CC(=C(C=C1)[N+](=O)[O-])C | C21H18N4O5
